US08349865B2
Step 2: {4-[(Diisopropylamino)carbonyl]-2-ethoxypyridin-3-yl}boronic acid
To a solution of N,N,N′,N′-tetramethylethylenediamine (7.46 ml, 49.4 mmol) in THF (105 ml) at −78° C., sec-butyl lithium (35.3 ml, 49.4 mmol, 1.4 M in cyclohexane) was added. 2-Ethoxy-N,N-diisopropylisonicotinamide (8.25 g, 33.0 mmol) in THF (10 mL) was added slowly over 5 min. After 15 min, trimethyl borate (11.23 ml, 101 mmol) was added and after an additional 30 min, the mixture was allowed to warm to 0° C. To this mixture, aqueous ammonium chloride (saturated, 35 mL) and hydrochloric acid (1 M, 140 mL) were added. The reaction mixture was then allowed to warm to room temperature. After 1 h, the aqueous layer was extracted with CH2Cl2 (140 mL). The organic extract was then washed with aqueous sodium hydroxide (1M, 2×120 mL). The combined aqueous extracts were washed with CH2Cl2 (100 mL), acidified with hydrochloric acid (12 M), and extracted with CH2Cl2 (2×120 mL). The combined organic extracts were washed with brine (100 mL), dried over sodium sulfate, and concentrated under reduced pressure to afford the title compound as a white solid.

reactant | N,N,N′,N′-tetramethylethylenediamine | 49.4 mmol, 7.46 ml | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyl lithium | 49.4 mmol, 1.4 M, 35.3 ml | C(C)(CC)[Li]
reactant | 2-Ethoxy-N,N-diisopropylisonicotinamide | 33.0 mmol, 8.25 g | C(C)OC=1C=C(C(=O)N(C(C)C)C(C)C)C=CN1 | C14H22N2O2
reactant | trimethyl borate | 101 mmol, 11.23 ml | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | 35 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 M, 140 mL | Cl | ClH
solvent | THF | 105 ml | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {4-[(Diisopropylamino)carbonyl]-2-ethoxypyridin-3-yl}boronic acid | C(C)(C)N(C(=O)C1=C(C(=NC=C1)OCC)B(O)O)C(C)C | C14H23BN2O4
